US04097579
A solution of 300 mg. of 5-(N-methyl-2-pyrroyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml. of isoamyl alcohol is saturated with hydrogen chloride. After 24 hours, the excess alcohol is distilled off in vacuo and the residue purified by chromatography on alumina, to yield isoamyl 5-(N-methyl-2-pyrroyl)-1,2-dihydro-3H-pyrrolo[ 1,2-a]pyrrole-1-carboxylate.

reactant | 5-(N-methyl-2-pyrroyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | CN1C(=CC=C1)C(=O)C1=CC=C2N1CCC2C(=O)O | C14H14N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | isoamyl 5-(N-methyl-2-pyrroyl)-1,2-dihydro-3H-pyrrolo[ 1,2-a]pyrrole-1-carboxylate | CN1C(=CC=C1)C(=O)C1=CC=C2N1CCC2C(=O)OCCC(C)C | C19H24N2O3
